US09127167B2
7-Octenylsilanetriol
By changing the reaction condition, 1,3-di(7-octenyl)disiloxane-1,1,3,3-tetraol, a dimer of the octenylsilanetriol, can be synthesized as main product. 0.60 g (yield: 78%) of 1,3-di(7-octenyl)disiloxane-1,1,3,3-tetraol was obtained in the same manner by adding 1 mL of a 3 wt % acetic acid aqueous solution and 1.0 g of 7-octenyltrimethoxysilane and carrying out reaction. The structure of the product was identified by NMR spectroscopy.

reactant | 7-octenyltrimethoxysilane | 1.0 g | C(CCCCCC=C)[Si](OC)(OC)OC | C11H24O3Si
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 7-Octenylsilanetriol | C(CCCCCC=C)[Si](O)(O)O | C8H18O3Si
